US08859774B2
Superhydride (1M solution in tetrahydrofuran, 43.2 ml, 43.2 mmol) was added slowly to a solution of (R)-methyl 1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate (5.2 g, 10.80 mmol) in tetrahydrofuran (100 mL) at 0° C. and stirred for 2 hours. The reaction was quenched with ammonium chloride solution (aqueous, 100 mL) and ethyl acetate (100 mL) was added. The phases were separated and the organic phase was washed with brine (100 mL), dried (sodium sulphate) and solvent removed to give a yellow oil. The crude product was purified by chromatography on silica gel (gradient: 0-80% ethyl acetate in isohexane) to afford (R)-(1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol (4.45 g) as a white solid. LCMS (Method F, ES-API): RT 2.36 min, m+H=454.

reactant | Superhydride | 43.2 mmol, 1M, 43.2 ml | [Li+].[B-](CC)(CC)CC
reactant | (R)-methyl 1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinoline-4a-carboxylate | 10.80 mmol, 5.2 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)S(=O)(=O)C=2C=C(C=CC2)C | C25H24FN3O4S
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | (R)-(1-(4-fluorophenyl)-6-(m-tolylsulfonyl)-4,4a,5,6,7,8-hexahydro-1H-pyrazolo[3,4-g]isoquinolin-4a-yl)methanol | 4.45 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)CO)S(=O)(=O)C=2C=C(C=CC2)C | C24H24FN3O3S
